US06465467B1
Step 1: 2-Chloro-3-(1-piperazinyl)-6,7-difluoroquinoxaline.
Piperazine (0.86 g, 10 mmol) was added to a stirred suspension of 6,7-difluoro-2,3-dichloroquinoxaline* (1.18 g, 5 mmol) in EtOH (50 mL) at room temperature. The mixture was heated at 75° C. for 17 h, allowed to cool and filtered to give the product as a pale yellow solid: yield 0.40 g (28%); mp 294-297° C. (dec). MS m/z 285/287 (M+H)+.

reactant | Piperazine | 10 mmol, 0.86 g | N1CCNCC1 | C4H10N2
reactant | 6,7-difluoro-2,3-dichloroquinoxaline | FC=1C=C2N=C(C(=NC2=CC1F)Cl)Cl | C8H2Cl2F2N2
solvent | EtOH | 50 mL | CCO | C2H6O
product | 2-Chloro-3-(1-piperazinyl)-6,7-difluoroquinoxaline | ClC1=NC2=CC(=C(C=C2N=C1N1CCNCC1)F)F | C12H11ClF2N4
